US05866560
A solution of 1.64 g of 17β-acetoxy-7α-(5-methylaminopentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene in 25 ml of absolute DMF is stirred with 159 mg of 80% sodium hydride under nitrogen for 2 hours at room temperature. 1.43 g of 3-chloro-propyl-4,4,5,5,5-pentafluoropentylsulfide in 7 ml of absolute DMF is then added in drops and then stirred for 22 more hours at 80° C. The reaction solution is then diluted with ethyl acetate, washed with water, dried, concentrated by evaporation, and the residue is chromatographed on silica gel. 820 mg of 17β-acetoxy-7α-{5-[N-methyl-N-3-(4,4,5,5,5-pentafluoropentylthio)-propylamino]-pentyl}-3-(tetrahydropyran-2-yloxy-estra-1,3,5(10)-triene is obtained as oil. [α]D22 =+21.5°(c=0.51% in chloroform)

reactant | 17β-acetoxy-7α-(5-methylaminopentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene | 1.64 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC2OCCCC2)CCCCCNC | C31H47NO4
reactant | sodium hydride | 159 mg | [H-].[Na+]
reactant | 3-chloro-propyl-4,4,5,5,5-pentafluoropentylsulfide | 1.43 g | ClCCCC(CCC(C(F)(F)F)(F)F)SC(CCC(C(F)(F)F)(F)F)CCCCl | C16H22Cl2F10S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | tetrahydropyran-2-yloxy-estra-1,3,5(10)-triene | O1C(CCCC1)OC[C@@]12CCC[C@H]1[C@@H]1CCC=3C=CC=CC3[C@H]1CC2 | C23H32O2
